2151-11-22 09:30:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had another episode of BRBPR this AM after EGD.  No source found on EGD
   and flex sig.
   24 Hour Events:
 MULTI LUMEN - START [**2151-11-22**] 04:39 AM
 BLOOD CULTURED - At [**2151-11-22**] 05:48 AM
 ENDOSCOPY - At [**2151-11-22**] 05:48 AM
 URINE CULTURE - At [**2151-11-22**] 05:49 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 2.4 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-11-22**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 84 (84 - 104) bpm
   BP: 114/68(80) {96/50(60) - 127/93(100)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: -1 (-1 - 2)mmHg
   Total In:
                                                                  7,850 mL
   PO:
   TF:
   IVF:
                                                                  1,612 mL
   Blood products:
                                                                    338 mL
   Total out:
                                                                      0 mL
                                                                  2,165 mL
   Urine:
                                                                    765 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, not tremulous.
   Appropriate and conversant.
   Labs / Radiology
   8.4 g/dL
   145 K/uL
   98 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   134 mEq/L
   21.3 %
   7.7 K/uL
        [image002.jpg]
                            [**2151-11-22**]  04:45 AM
                            [**2151-11-22**]  07:55 AM
   WBC
   7.7
   Hct
   24.3
   21.3
   Plt
   145
   Cr
   0.5
   Glucose
   98
   Other labs: PT / PTT / INR:14.2/25.0/1.2, ALT / AST:[**11-24**], Alk Phos / T
   Bili:34/0.6, Amylase / Lipase:50/31, Differential-Neuts:78.2 %,
   Lymph:15.4 %, Mono:4.8 %, Eos:1.4 %, Fibrinogen:277 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:145 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O ALCOHOL ABUSE
   history seizure
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   45 yo man with EtOH abuse history here with GI bleed.
   1. GI Bleed/Blood loss anemia: Getting tagged RBC scan this AM to
   potentially direct an angiographic solution to the GI Bleed.  Frequent
   Hct checks.  GI and surgery following.
   2. EtOH: Need to monitor closely for signs of withdrawal - benzos by
   CIWA
   Remainder of isues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-11-22**] 04:39 AM
   20 Gauge - [**2151-11-22**] 07:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Mr. [**Known lastname 6281**] had an episode of BRBPR earlier today, prompting a tagged
   RBC scan to localize bleeding.  While at  tagged RBC scan, he had start
   of a continuous large BRBPR.  He became tachycardic and his BP dropped,
   necessitating start of pressors.   Massive transfusion protocol
   initiated.  I was present in nuclear medicine to evaluate him along
   with ICU resident.  He then went to IR where [**Female First Name (un) 2712**] bleeding seen.  In IR,
   he had a puncture of aortic wall which required balloon tamponade for
   several minutes for hemostasis.  Vascular surgery evaluated him, but no
   further repair required at that time.  Also seen several times by
   general surgery through course.  Has received
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2151-11-22**] 19:58 ------
   30 units of pRBCs total, along with 6 units FFP, 2units platelets.  Has
   had [**Female First Name (un) 2712**] coiled but still working for full hemostasis.  Plan to return
   to MICU after completion of IR procedure.  Now on 2 pressors.  Will
   plan to intubate after coming back to MICU.  Surgery following closely.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2151-11-22**] 20:00 ------
   Pt is critically ill. Time spent: 60 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2151-11-22**] 20:03 ------